US04259345
A solution of methyl iodide (3.55 g) in dry ether (20 ml) was added dropwise to a stirred solution of 1-cyclohexyl-2-dimethylaminomethylpyrrole (4.12 g) in dry ether (50 ml) at 5°. The resulting mixture was stirred at room temperature for 5 hours and then allowed to stand overnight. The solid was filtered off, washed with ether and dried to give [1-cyclohexyl-pyrrol-2-yl]methyl trimethylammonium iodide (6.0 g), m.p.>250° (darkening ca. 190°).

reactant | methyl iodide | 3.55 g | CI | CH3I
reactant | 1-cyclohexyl-2-dimethylaminomethylpyrrole | 4.12 g | C1(CCCCC1)N1C(=CC=C1)CN(C)C | C13H22N2
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | [1-cyclohexyl-pyrrol-2-yl]methyl trimethylammonium iodide | 6.0 g | [I-].C1(CCCCC1)N1C(=CC=C1)C[N+](C)(C)C | InChI=1S/C14H25N2.HI/c1-16(2,3)12-14-10-7-11-15(14)13-8-5-4-6-9-13;/h7,10-11,13H,4-6,8-9,12H2,1-3H3;1H/q+1;/p-1
